US04628057
(2) (3RS)-2-Benzyloxycarbonyl-3-(1H-tetrazol-5-yl)-1,2,3,4-tetrahydro-β-carboline
A mixture of (3RS)-2-Benzyloxycarbonyl-3-cyano-1,2,3,4-tetrahydro-β-carboline (0.663 g), NaN3 (0.143 g), NH4Cl (0.118 g) and dimethylformamide (2 ml) is stirred at 95°-100° C. for 6 hours. The reaction mixture is cooled and then poured onto ice-water, adjusted to pH 2 with 10% HCl and extracted with ethyl acetate. The ethyl acetate layer is washed with water, dried and distilled to remove the solvent. The residue is crystallized from ethyl acetate to give the title compound (0.358 g), m.p. 218°-219° C. (decomp.).

reactant | (3RS)-2-Benzyloxycarbonyl-3-cyano-1,2,3,4-tetrahydro-β-carboline | 0.663 g | C(C1=CC=CC=C1)OC(=O)N1CC=2NC3=CC=CC=C3C2CC1C#N | C20H17N3O2
reactant | NaN3 | 0.143 g | [N-]=[N+]=[N-].[Na+]
reactant | NH4Cl | 0.118 g | [NH4+].[Cl-]
reactant | HCl | Cl | ClH
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | (3RS)-2-Benzyloxycarbonyl-3-(1H-tetrazol-5-yl)-1,2,3,4-tetrahydro-β-carboline | 0.358 g | C(C1=CC=CC=C1)OC(=O)N1CC=2NC3=CC=CC=C3C2CC1C1=NN=NN1 | C20H18N6O2
